US04808727
1.49 g of 4-dimethylamino-benzaldehyde are added to a solution of 0.88 g of 1,3-diamino-2-isopropyl-imidazolium chloride in 15 ml of glacial acetic acid. After allowing the reaction mixture to stand at room temperature for 2 days, the product is crystallized out by the addition of ether and then recrystallized from ethanol. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-isopropyl-imidazolium chloride of melting point 241°.

reactant | 4-dimethylamino-benzaldehyde | 1.49 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 1,3-diamino-2-isopropyl-imidazolium chloride | 0.88 g | [Cl-].N[N+]1=C(N(C=C1)N)C(C)C
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-2-isopropyl-imidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C=C2)N=CC2=CC=C(C=C2)N(C)C)C(C)C)C=C1)C | InChI=1S/C24H31N6.ClH/c1-19(2)24-29(25-17-20-7-11-22(12-8-20)27(3)4)15-16-30(24)26-18-21-9-13-23(14-10-21)28(5)6;/h7-19H,1-6H3;1H/q+1;/p-1
